US07862807B2
Step 1: Synthesis of 3-[2-Amino-3-(2-cyanoethoxy)propoxy]-propionitrile (27)
To a suspension of 2-amino-1,3-propandiol (3.0 g, 0.033 mol) in 1,4-dioxane (8 mL) was added aqueous 40% KOH (0.46 mL, 0.003 mol), and the mixture was stirred for 10 minutes. The reaction solution was cooled to 0° C., and acrylonitrile (5.20 mL, 0.079 mol) was added with a syringe. The reaction was then warmed to room temperature, stirred overnight, and concentrated under reduced pressure. The residue was diluted with CH2Cl2 (120 mL) and washed with saturated aqueous NaHCO3 (2×70 mL) and H2O (2×70 mL). The organic phase was dried over anhydrous MgSO4, and the solvent was removed under reduced pressure. The resulting residue was purified by flash column chromatography (on silica gel, MeOH:CH2Cl2=1:10 affording 1.62 g (34%) of the desired dinitrile (27) as a slightly yellow liquid. 1H NMR (CDCl3): δ 3.68 (t, J=6.4 Hz, 4H, CH2O), 3.48 (m, 4H, CH2O), 3.15 (m, 1H, CH), 2.61 (t, J=6.4 Hz, 1H, CH2CN).

reactant | 2-amino-1,3-propandiol | 0.033 mol, 3.0 g | NC(CO)CO | C3H9NO2
reactant | KOH | 0.003 mol, 0.46 mL | [OH-].[K+]
reactant | acrylonitrile | 0.079 mol, 5.20 mL | C(C=C)#N | C3H3N
solvent | 1,4-dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | 3-[2-Amino-3-(2-cyanoethoxy)propoxy]-propionitrile | NC(COCCC#N)COCCC#N | C9H15N3O2
